US08877944B2
2-[1-(4,4-Difluorocyclohexyl)-piperidin-4-yl]-6-fluoro-3-oxo-2,3-dihydro-1H-isoindole-4-carboxamide, cpd 99
To a stirred solution of [2-[1-(4,4-difluorocyclohexyl)-piperidin-4-yl]-6-fluoro-3-oxo-2,3-dihydro-1H-isoindole-4-carbonitrile (1.44 g, 3.82 mmol) in acetic acid (11 mL), concentrated sulfuric acid (5.8 mL) was added dropwise during 30 min. The reaction was then warmed at 80° C. for 9 hours, cooled at room temperature and poured into cold water (20 mL). The aqueous phase was then made basic by adding concentrated aqueous ammonia and extracted with dichloromethane (3×10 mL). The combined organic phases were washed with 2N aqueous sodium hydroxide (2×12 mL) and brine, dried over sodium sulfate, and evaporated to dryness in vacuo. The title compound was obtained as a white solid (1 g, 67%) after purification through column chromatography, using dichloromethane/ethanol:95/5 as the mobile phase.

reactant | 2-[1-(4,4-difluorocyclohexyl)-piperidin-4-yl]-6-fluoro-3-oxo-2,3-dihydro-1H-isoindole-4-carbonitrile | 3.82 mmol, 1.44 g | FC1(CCC(CC1)N1CCC(CC1)N1CC=2C=C(C=C(C2C1=O)C#N)F)F | C20H22F3N3O
reactant | water | 20 mL | O | H2O
reactant | ammonia | N | H3N
solvent | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 5.8 mL | S(O)(O)(=O)=O | H2O4S
product | 2-[1-(4,4-Difluorocyclohexyl)-piperidin-4-yl]-6-fluoro-3-oxo-2,3-dihydro-1H-isoindole-4-carboxamide | FC1(CCC(CC1)N1CCC(CC1)N1CC=2C=C(C=C(C2C1=O)C(=O)N)F)F | C20H24F3N3O2
